US04011238
EXAMPLE 8: 2-[(2-(p-Chlorophenyl)amino-1-methylethyl]-amino)-1-propanol
95 Grams of 2-[1-(p-chlorophenylcarbamyl)ethylamino]-propionic acid ethyl ester dissolved in 1200 ml. of anhydrous diethyl ether is gradually added under stirring to a suspension of 38 g. of LiAlH4 in 2000 ml. of diethyl ether cooled to 0° C. The reaction mixture is refluxed for two hours with stirring, then the reaction complex is decomposed at 0° C. with water, stirred for 30 minutes at room temperature and the inorganic solids separated by filtration. The ether solution is dried and evaporated, and the residue, distilled in a bulb, yields 76 g. of the title compound. B.p. 170° C./0.4 mm Hg. yield 98.5%. The corresponding acetate, obtained by treatment of the title compound with acetyl chloride in acetic acid, boils at 160° C./0.5 mm Hg. In the same way, the corresponding m-chlorophenyl-substituted derivative is synthesized. B.p 170° C./0.5 mm Hg. The corresponding acetate boils at 160° C./0.5 mm Hg.

reactant | 2-[1-(p-chlorophenylcarbamyl)ethylamino]-propionic acid ethyl ester | C(C)OC(C(C)NC(C)C(NC1=CC=C(C=C1)Cl)=O)=O | C14H19ClN2O3
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | water | O | H2O
product | 2-[(2-(p-Chlorophenyl)amino-1-methylethyl]-amino)-1-propanol | yield 98.5% | ClC1=CC=C(C=C1)NCC(C)NC(CO)C | C12H19ClN2O
